US04022802
By treating in analogous manner 5-methoxy-indole with n-butyl bromide, 1-n-butyl-5-methoxy-indole is obtained (b.p.:103° -104° C., nD20 :1.5674).

reactant | 5-methoxy-indole | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
product | 1-n-butyl-5-methoxy-indole | C(CCC)N1C=CC2=CC(=CC=C12)OC | C13H17NO
